Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
Dual chamber ICD placement ___

 
History of Present Illness:
___ with a PMH of pulmonary sarcoidosis, multiple CVAs on 
Plavix,
T2DM who presented to CHA with 1 week of dyspnea on exertion and
palpitations.

During ___ stroke work up EKG that showed Mobitz type I with
PACs. A Holter in ___ showed PR prolongation with episodes of
atrial bigeminy, mostly during nighttime and with maximum pause
of 2.5 seconds. Minimal atrial or ventricular ectopy. TTE in 
___
showed small secundum ASD with slight left to right flow at 
rest.
Mild symmetric LVH with preserved global and regional
biventricular systolic function. Echo read noted atrial
fibrillation, however in discharge documentation this was felt 
to
be a computer read about than actual atrial fibrillation at that
time.

He is supposed to be followed at ___ for his cardiac care, but
has not seen a ___ cardiologist since ___. In ___, he presented to ___ ED with 2:1 AV block off beta 
blockers;
however, per ED note, the ED provider thought that the patient
was taking atenolol at the time despite the patient being off of
beta-blockers since ___, and so they "discontinued" the
atenolol.

For the past week pt has developed progressive DOE. He reports
that prior to a week ago he could walk around without any SOB.
Gradually 1 week ago he developed SOB with walking and with
laying down. He reports orthopnea. Denies worsening ___ edema
(swollen at baseline), increased abdominal distension.

He reports intermittent chest discomfort described as a fullness
akin to a gas bubble or thudding sensation lasting a few seconds
that was new on ___. 

Due to the worsening SOB he presented to CHA ED on ___.

Pt denies fevers, cough, weight changes, lightheadedness,
dizziness, diaphoresis, nausea, chest pain, N/V, abdominal pain,
diarrhea, constipation. Reports chronic urinary frequency 
without
dysuria. Pt states that breathing improved at ___ prior to
receiving Lasix.

At ___, pt was found to be in new atrial fibrillation with slow
ventricular response with periods of regularized junctional
rhythm in the ___ consistent with transient high grade block as
well as found to be volume overloaded.

Labs at ___ notable for: 
1) Cr 1.0
2) Troponin 0.02
3) BNP 372
4) WBC 6.6

Images at ___ notable for:
1) CXR: Right hilar fullness
2) CTA: Preliminary: negative PE, soft tissue thickening in 
hilum

At ___, patient underwent a CTA Chest which showed no PE and a
soft tissue prominence in the mediastinum with some bronchial
narrowing and a CXR which showed mild pulmonary vascular
congestion. He was actively diuresed with Lasix 20 mg IV with
good UOP. His Plavix was discontinued due to presumed upcoming
pacemaker placement, and he was started on lovenox for
CHADS-2-VASc of 4. He was transferred to ___ for further
management of his arrhythmia and possible cardiac sarcoid 
workup.

Upon arrival to ___, patient states SOB has significantly
improved.

 
Past Medical History:
DM
HTN
HLD
right frontal and left parietal punctate strokes of unknown
etiology
second degree heart block
pulmonary sarcoidosis
 
Social History:
___
Family History:
Non -contributory 
 
Physical Exam:
On admission
=======================  
VS: 97.7 PO 163 / 71 L Sitting 50 20 100 RA  
GEN: NAD, laying down in bed
HEENT: PERRL, EOMI, OP clear
NECK: JVD 7 cm, supple
CARD: bradycardic, S1 + S2 present, no mrg
RESP: CTAB
ABD: Distended, soft, nontender, +BS, no rebound/guarding
EXT: WWP, 1+ ___ edema
NEURO: AOx3, alert, oriented, motor function grossly intact

On discharge
======================= 
Temp: 97.6 (Tm 98.1), BP: 126/78 (125-166/52-91), HR: 60 
(40-61),
RR: 16 (___), O2 sat: 97% (96-100), O2 delivery: Ra  
I/O= 120/350 = net balance -230 (8 hrs), ___ = net balance
-1465 (24 hrs), cumulative balance -2870
Weight: 207.01 lb
Weight on admission: 213.84 lb
Telemetry: Atrial fibrillation; ventricular-paced rhythm by ICD
at 60 bpm.
General: Well-appearing, pleasant, obese elderly gentleman in no
apparent distress.
HEENT: Normocephalic, atraumatic, sclera anicteric, PERRLA,
oropharynx clear, mucous membranes moist
Lungs: Clear to auscultation bilaterally. No wheezing, rhonchi,
or crackles. Respiration is unlabored and without accessory
muscle use.
CV: Regular rhythm. Normal S1, S2. No rubs, murmurs, or gallops.
JVP not visible in a sitting position. 
Abdomen: Soft, nontender, nondistended.
Ext: Warm, well-perfused. No clubbing or cyanosis. No lower
extremity edema. Palpable distal pulses bilaterally.
Skin: No erythema. 

 
Pertinent Results:
On admission
======================= 
___ 11:29PM BLOOD WBC-7.2 RBC-4.89 Hgb-13.5* Hct-42.4 
MCV-87 MCH-27.6 MCHC-31.8* RDW-14.2 RDWSD-44.2 Plt ___
___ 11:29PM BLOOD Neuts-32.3* Lymphs-53.5* Monos-10.4 
Eos-3.1 Baso-0.6 Im ___ AbsNeut-2.33 AbsLymp-3.86* 
AbsMono-0.75 AbsEos-0.22 AbsBaso-0.04
___ 11:29PM BLOOD ___ PTT-40.3* ___
___ 11:29PM BLOOD Glucose-146* UreaN-13 Creat-1.0 Na-141 
K-4.6 Cl-100 HCO3-28 AnGap-13
___ 11:29PM BLOOD ALT-33 AST-21 LD(LDH)-187 AlkPhos-92 
TotBili-0.5
___ 11:29PM BLOOD Calcium-10.2 Phos-4.0 Mg-1.6
___ 05:49AM BLOOD TSH-2.6
___ 05:49AM BLOOD CRP-1.3

On discharge
======================= 

___ 06:18AM BLOOD WBC-8.7 RBC-5.39 Hgb-15.1 Hct-46.6 MCV-87 
MCH-28.0 MCHC-32.4 RDW-14.0 RDWSD-43.8 Plt ___
___ 06:18AM BLOOD Plt ___
___ 06:18AM BLOOD Glucose-172* UreaN-16 Creat-0.9 Na-137 
K-4.8 Cl-101 HCO3-21* AnGap-15
___ 06:18AM BLOOD Calcium-9.7 Phos-3.5 Mg-1.8

TTE ___
CONCLUSION: The left atrial volume index is mildly increased. 
The right atrium is moderately
enlarged. There is no evidence for an atrial septal defect by 
2D/color Doppler. The estimated right atrial
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with a normal cavity size.
There is normal regional and global left ventricular systolic 
function. The visually estimated left
ventricular ejection fraction is 60-65%. There is no resting 
left ventricular outflow tract gradient. No
ventricular septal defect is seen. Tissue Doppler suggests an 
increased left ventricular filling pressure
(PCWP greater than 18 mmHg). Normal right ventricular cavity 
size with normal free wall motion.
Tricuspid annular plane systolic excursion (TAPSE) is normal. 
The aortic sinus diameter is normal for
gender with normal ascending aorta diameter for gender. The 
aortic arch is mildly dilated with a mildly
dilated descending aorta. There is no evidence for an aortic 
arch coarctation. The aortic valve leaflets (3)
are moderately thickened. There is no aortic valve stenosis. 
There is mild [1+] aortic regurgitation. The
mitral valve leaflets are mildly thickened with no mitral valve 
prolapse. There is mild [1+] mitral
regurgitation. There is diastolic mitral regurgitation due to 
bradycardia. The pulmonic valve leaflets are
normal. There is mild pulmonic regurgitation. The tricuspid 
valve leaflets appear structurally normal.
There is mild [1+] tricuspid regurgitation. There is moderate 
pulmonary artery systolic hypertension.
There is a trivial pericardial effusion.
IMPRESSION: Bradycardia. Mild symmetric left ventricular 
hypertrophy with normal cavity
size and regional/global biventricular systolic function. 
Moderate pulmonary artery systolic
hypertension.
Compared with the prior TTE (images not available for review) of 
___ , secundum ASD is not
well visualized on the current study and the heart rate is 
slower. The pulmonary pressure is higher.

Cardiac MRI
Finding C/W cardiac sarcoids;  official report pending
 
Brief Hospital Course:
___ with PMH of pulmonary sarcoidosis, Mobitz Type 1 2nd degree 
AV block w/ 2:1 conduction, multiple CVAs (on Plavix), T2DM, and 
HTN p/w 1 week of dyspnea on exertion, found to have new a-fib 
with junctional rhythm in ___ and evidence of cardiac 
sarcoidosis, now s/p ICD placement on ___.

#New-onset atrial fibrillation with high grade block
Found to have new-onset atrial fibrillation with high grade 
heart block c/f cardiac sarcoids at OSH and was transferred to 
___ for evaluation of cardiac sarcoidosis and pacemaker vs ICD 
placement. While at ___, was followed by electrophysiology 
team, and  underwent a cardiac MRI, which demonstrated cardiac 
involvement of sarcoid. Based on the results of the cardiac MRI, 
 underwent dual chamber ICD placement on ___. Post-procedure CXR 
demonstrated appropriate placement without pneumothorax. Was 
started on lovenox for anticoagulation at OSH, d/t CHAD2S2-VASc 
score of 6, but held for the procedure and started on warfarin 
___. Last dose on Warfarin is 5mg on ___. 

#Dyspnea on exertion:
PW dyspnea on exertion to OSH. On the arrival to ___, no more 
c/o dyspnea. Dyspnea likely d/t multifactorial with high grade 
heart block and AFib. There might have been some degree of 
diastolic heart failure with e/o cardiac sarcoidosis on cardiac 
MRI, and mild volume overload exam findings. though TTE showed 
EF 60% with normal systolic function and no wall abnormalities. 
EKG w/o ischemic changes and Trop X2 negative.  CTA w/ no e/o 
PE. Continued home Lasix 20mg PO.

Chronic issues
#Pulmonary sarcoid: Continued his home albuterol Q4H:PRN
#H/o CVA: stopped home plavix 75 mg QD on discharge - systemic 
anticoagulation was started. 
#T2DM: Held his home glipizide 10 mg BID and metformin 1000 mg 
QD. placed on an insulin sliding scale. Home oral agents 
restarted on discharge. 
#HTN: Continued home lisinopril 20 mg QD and HCTZ 25 mg QD.
# Bilateral Foot Pain: Continued home gabapentin 400 mg TID.
# GERD: Continued his home omeprazole 20 mg BID.

Transitional Issues:
[] Need to ___ on INR on ___ with PCP , started ___ 
on ___ and last dose 5mg. PCP ___ of plan for 
warfarin. Goal INR ___. 
[] Follow-up with electrophysiology for pacemaker function.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB 
2. amLODIPine 10 mg PO DAILY 
3. Furosemide 20 mg PO QAM 
4. Gabapentin 400 mg PO TID 
5. lisinopril-hydrochlorothiazide ___ mg oral daily 
6. MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
7. Omeprazole 20 mg PO BID 
8. Clopidogrel 75 mg PO DAILY 
9. GlipiZIDE XL 10 mg PO DAILY 

 
Discharge Medications:
1.  Warfarin 5 mg PO DAILY16 Duration: 14 Days 
RX *warfarin 5 mg 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 
2.  Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB  
3.  amLODIPine 10 mg PO DAILY  
4.  Furosemide 20 mg PO QAM  
5.  Gabapentin 400 mg PO TID  
6.  GlipiZIDE XL 10 mg PO DAILY  
7.  lisinopril-hydrochlorothiazide ___ mg oral DAILY  
8.  MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY  
9.  Omeprazole 20 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Atrial fibrillation with high grade block

Secondary Diagnosis:
Cardiac sarcoidosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because of shortness of 
breath. While you were in the hospital, you were found to have 
an abnormal heart rhythm and slow heart rate.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You underwent an ultrasound and MRI of your heart, which 
showed that there might be some involvement of sarcoidosis in 
your heart, which was probably causing the abnormal rhythm
- You were started on a blood thinner called warfarin to prevent 
blood clots from forming
- You underwent a procedure to place a 
pacemaker/cardioverter-defibrillator in your heart, which you 
protect you from harmful heart rhythms,. 

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed.
- Please stop taking clopidogrel. 
- You should attend the appointments listed below.
- Weigh yourself every morning, call your primary care doctor if 
your weight goes up more than 3 lbs.
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.
- Your discharge weight:  207.01 lb. You should use this as your 
baseline after you leave the hospital.
- With your new blood thinner medication (warfarin), it is VERY 
important to get regular blood draws to monitor your blood. This 
will be monitored by your primary care doctor Dr. ___. You 
should get your blood checked on ___ with Dr. ___.
-Dr. ___ will reach out to you about a sooner 
appointment than the one scheduled on ___. If you do not 
hear from them by ___, please call his office on ___ at 8 AM to 
schedule an INR check and a sooner appointment.

We wish you the best!
Your ___ Care Team
 
Followup Instructions:
___